US04762838
Ethyl 2-Amino-4-bromobenzoate Hydrochloride
At room temperature, a solution of 3.09 g (0.0127 mol) of ethyl 2-amino-4-bromobenzoate and 30 ml absolute ethanol was saturated with dry hydrogen chloride gas. A colorless precipitate formed in the warm solution. When it was again at room temperature, the solution was diluted with 30 ml of diethyl ether; the resulting crystalline product was filtered and washed with diethyl ether. Thus there was obtained 2.72 g (77%) of the title compound: m.p. 147°-150° C. Analysis calculated for C9H11BrClNO2 : C, 38.53; H, 3.95; N, 4.99%. Found: C, 38.48; H; 4.02; N, 4.99%.

reactant | ethyl 2-amino-4-bromobenzoate | 0.0127 mol, 3.09 g | NC1=C(C(=O)OCC)C=CC(=C1)Br | C9H10BrNO2
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | Ethyl 2-Amino-4-bromobenzoate Hydrochloride | 2.72 g, 77% | Cl.NC1=C(C(=O)OCC)C=CC(=C1)Br | InChI=1S/C9H10BrNO2.ClH/c1-2-13-9(12)7-4-3-6(10)5-8(7)11;/h3-5H,2,11H2,1H3;1H
